US04314942
1-Aminoadamantane (10 mmol; 1.51 g) and triethylamine (1.9 ml) in dry dichloromethane (30 ml) are stirred at 0°-5° C. and allyl chloroformate (1.1 ml) added dropwise. After 0.5 hour, the solution is washed with dilute sulfuric acid and water. After drying over anhydrous magnesium sulfate, the solution is evaporated to give 1-(allyloxycarbonylamino)adamantane, as a white solid, with a melting point of about 56°-58° C.

reactant | 1-Aminoadamantane | 10 mmol, 1.51 g | NC12CC3CC(CC(C1)C3)C2 | C10H17N
reactant | triethylamine | 1.9 ml | C(C)N(CC)CC | C6H15N
reactant | allyl chloroformate | 1.1 ml | ClC(=O)OCC=C | C4H5ClO2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-(allyloxycarbonylamino)adamantane | C(C=C)OC(=O)NC12CC3CC(CC(C1)C3)C2 | C14H21NO2
